US07323464B2
Bromo-(4-fluoro-phenyl)-acetic acid methyl ester
4-Fluorophenylacetic acid methyl ester (3.0 g, 17.6 mmol) in THF (20 mL) under nitrogen at −78° was treated with 1M lithium hexamethyldisilazide (19.4 mL, 19.4 mmol) and stirred at −78° for fifteen minutes. Trimethyl silyl chloride was added (2.23 mL, 17.6 mmol) and the reaction stirred for a further fifteen minutes. Bromine (0.9 mL, 17.6 mmol) was added and the reaction stirred again for a further fifteen minutes then quenched with water and partitioned between DCM and sodium hydrogen carbonate solution. The organic phase was separated, dried (sodium sulphate) and concentrated in vacuo. Flash chromatography (diethylether-silica) yielded the title compound.

reactant | 4-Fluorophenylacetic acid methyl ester | 17.6 mmol, 3.0 g | COC(CC1=CC=C(C=C1)F)=O | C9H9FO2
reactant | lithium hexamethyldisilazide | 19.4 mmol, 1M, 19.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Trimethyl silyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | Bromine | 17.6 mmol, 0.9 mL | BrBr | Br2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Bromo-(4-fluoro-phenyl)-acetic acid methyl ester | COC(C(C1=CC=C(C=C1)F)Br)=O | C9H8BrFO2
